US04745115
1-(2'-Fluorophenyl)-8-methoxy-1,4-dihydro-benz[h]isoquinol-3-one
Prepared from 6-methoxy-2-naphthylacetamide and 2-fluorobenzaldehyde.

reactant | 6-methoxy-2-naphthylacetamide | COC=1C=C2C=CC(=CC2=CC1)CC(=O)N | C13H13NO2
reactant | 2-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
product | 1-(2'-Fluorophenyl)-8-methoxy-1,4-dihydro-benz[h]isoquinol-3-one | FC1=C(C=CC=C1)C1NC(CC2=CC=C3C(=C12)C=CC(=C3)OC)=O | C20H16FNO2
